US05091432
0.500 g. (4.38 mmol) of 1-(2-aminoethyl)-pyrrolidine was heated 100°-110° C. with 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) in a 10 ml round bottom flask with stirring for one hour. Then, 10 ml of acetonitrile was added and the solution was stirred for 15 minutes. The resulting precipitate was collected by vacuum filtration. The solid was washed with acetonitrile and then with ether to yield 275 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(1-pyrrolidinyl)ethyl]propanamide (AIT-0068) as a white solid. Yield: 85%.

reactant | 1-(2-aminoethyl)-pyrrolidine | 4.38 mmol | NCCN1CCCC1 | C6H14N2
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-(1-pyrrolidinyl)ethyl]propanamide | 275 mg, Yield: 85% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCN1CCCC1 | C14H20N6O2
